US08686150B2
(b) 6-Benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decan-10-one
To a solution of 6.72 g of 8,8-dimethyl-6,9-diaza-spiro[4.5]decan-10-one in 35 ml of DMF were added 4.8 ml of benzyl bromide and 6.9 ml of Hünig's base. The reaction was stirred at r.t overnight. The precipitated product was isolated by suction and washed with DMF and EtOAc. The filtrate was concentrated and the resulting residue was dissolved in EtOAc, washed with water, dried over Na2SO4, filtered and concentrated to yield a second fraction of the product. 9.62 g (96%) of the title compound were obtained.

reactant | 8,8-dimethyl-6,9-diaza-spiro[4.5]decan-10-one | 6.72 g | CC1(CNC2(CCCC2)C(N1)=O)C | C10H18N2O
reactant | benzyl bromide | 4.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Hünig's base | 6.9 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 6-Benzyl-8,8-dimethyl-6,9-diaza-spiro[4.5]decan-10-one | 9.62 g, 96% | C(C1=CC=CC=C1)N1C2(CCCC2)C(NC(C1)(C)C)=O | C17H24N2O
